US07199105B2
To 4-propylpyridine (2.5 g, 20 mmol), 30% hydrogen peroxide (2.4 g) was added and refluxed overnight. The solvent was removed and the resulting residue was taken in DCM (30 mL). Trimethylsilyl cyanide (2.6 g, 26 mmol) was added to the above solution followed by dimethylcarbamyl chloride (2.8 g, 26 mmol), and the reaction mixture was stirred at rt overnight. Potassium carbonate (10%, 100 mL) was added. The organic layer was separated, dried over sodium sulfate and then concentrated to obtain 4-propyl-2-cyanopyridine (2.5 g, 93%). The crude nitrile was dissolved in aqueous hydrochloric acid (6N, 60 mL) and refluxed overnight. The 4-propyl-2-carboxylic acid pyridine 10b (R9=propyl) was obtained after crystallization from acetonitrile (2 g, 71%).

reactant | 4-propylpyridine | 20 mmol, 2.5 g | C(CC)C1=CC=NC=C1 | C8H11N
reactant | hydrogen peroxide | 2.4 g | OO | H2O2
reactant | Trimethylsilyl cyanide | 26 mmol, 2.6 g | C[Si](C)(C)C#N | C4H9NSi
reactant | dimethylcarbamyl chloride | 26 mmol, 2.8 g | CN(C(=O)Cl)C | C3H6ClNO
solvent | Potassium carbonate | 100 mL | C([O-])([O-])=O.[K+].[K+]
product | 4-propyl-2-cyanopyridine | 2.5 g, 93% | C(CC)C1=CC(=NC=C1)C#N | C9H10N2
